US05677439
Preparation of 3'-O-t-butyldimethylsilyl-5'-iodo-5'-deoxythymidine
To a stirred solution of the thymidine iodide (8.0 g, 24.7 mmol) prepared according to the method of Example 24 in dry DMF, was added imidazole (4.2 g, 61.7 mmol). After 5 minutes tert-butyldimethyl silyl chloride (4.47 g, 29.64 mmol) was added and the mixture stirred for 4 hours. The reaction mixture was then diluted with ethyl acetate (250 ml), washed with water (2×100 ml) and brine (50 ml) and then dried with sodium sulfate. The title compound was purified by flash chromatography using 60% ethyl acetate in hexane in 92% yield.

reactant | thymidine iodide | 24.7 mmol, 8.0 g | [I-].[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1
reactant | imidazole | 61.7 mmol, 4.2 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethyl silyl chloride | 29.64 mmol, 4.47 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 3'-O-t-butyldimethylsilyl-5'-iodo-5'-deoxythymidine | 92% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CI)N1C(=O)NC(=O)C(C)=C1 | C16H27IN2O4Si
